US04550105
To 6 ml of 80% ethanol are added 106 mg of sodium cis-3-(2-benzyloxycarbonyl-2-phenylacetamido)-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate, 106 mg of 5% palladium-on-carbon and 16.8 mg of sodium hydrogen carbonate, and the mixture is vigorously stirred under hydrogen atmosphere for 3.5 hours at ambient temperature under atmospheric pressure. The reaction mixture is subjected to filtration, and the filtrate is concentrated under reduced pressure. The concentrate is purified by column chromatography on Amberlite XAD-II, followed by lyophilization to give cis-3-(2-carboxy-2-phenylacetamido)-4-methoxycarbonyl-1-sulfo-2-oxoazetidine.disodium salt as a mixture of diastereoisomers.

reactant | sodium cis-3-(2-benzyloxycarbonyl-2-phenylacetamido)-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | 106 mg | C(C1=CC=CC=C1)OC(=O)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)C1=CC=CC=C1.[Na+]
reactant | sodium hydrogen carbonate | 16.8 mg | C(O)([O-])=O.[Na+]
catalyst | palladium-on-carbon | 106 mg | [Pd] | Pd
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | cis-3-(2-carboxy-2-phenylacetamido)-4-methoxycarbonyl-1-sulfo-2-oxoazetidine | C(=O)(O)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)O)=O)C1=CC=CC=C1 | C14H14N2O9S
